US07429565B2
2-{4-[(1-Ethoxycarbonyl-ethoxy)-methoxy-phosphoryl]-but-2-enyl}-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid
A solution of 2-{4-[(1-ethoxycarbonyl-ethoxy)-methoxy-phosphoryl]-but-2-enyl}-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester (14 mg, 0.018 mmol) in THF (1 mL) was stirred with a 1M solution of TBAF in THF (55 μL, 0.055 mmol) for 1 hour. The reaction mixture was concentrated, acidified with 1N HCl and extracted with EtOAc. The organic layer was washed with brine and dried. The product was purified by silica gel column chromatography EtOH-EtOAc (0-10%). Further purification was performed by dissolving the product in CH2Cl2 and passing the compound through a 13 mm Acrodisc syringe filter with a 0.45 μm Nylon membrane to provide 8 mg (77%) of the product. 1H NMR (300 MHz, CDCl3) δ 0.92 (t, 3H, J=7 Hz), 1.30 (d, 3H, J=8 Hz), 1.79 (s, 3H), 2.10-2.39 (m, 4H), 2.15 (s, 3H), 2.53 (d, 1H, J=8 Hz), 2.65 (d, 1H, J=22 Hz), 2.68 (d, 1H, J=22 Hz), 3.38 (d, 2H, J=7 Hz), 3.70 and 3.74 (d, 3H, J=11 Hz), 3.76 (s, 3H), 4.07 (m, 2H), 4.96 (dq, 1H, J=7 Hz), 5.20 (s, 2H), 5.27 (br t, 1H, J=7 Hz), 5.33-5.55 (m, 2H), 7.51-7.56 (m, 1H), 7.68-7.74 (m, 1H) ppm; 31P (121.4 MHz, CDCl3) δ 29.0, 30.1 ppm; MS (m/z) 569.2 [M+H]+, 591.3 [M+Na]+.

reactant | 2-{4-[(1-ethoxycarbonyl-ethoxy)-methoxy-phosphoryl]-but-2-enyl}-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester | 0.018 mmol, 14 mg | C[Si](CCOC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)CC=CCP(=O)(OC)OC(C)C(=O)OCC)=O)(C)C | C37H61O11PSi2
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.055 mmol, 55 μL | C1CCOC1 | C4H8O
product | 2-{4-[(1-Ethoxycarbonyl-ethoxy)-methoxy-phosphoryl]-but-2-enyl}-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid | 8 mg, 77% | C(C)OC(=O)C(C)OP(=O)(OC)CC=CCC(C(=O)O)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C27H37O11P
